US08471019B2
7,14-Diphenyl-5,12-dithia-pentacene
A mixture of 8.0 g of 7,14-diphenyl-7,14-dihydro-5,12-dithia-pentacene and 3.1 grams of chloranil is heated in 70 ml ortho-dichlorobenzene to 150° C. for one hour. After cooling to 22° C., the product is filtered off and washed with 30 ml of ortho-dichlorobenzene, twice with 15 ml toluene and finally with 30 ml of ethanol. After drying 5.9 g of 7,14-Diphenyl-5,12-dithia-pentacene is obtained as dark violet crystals, mp=320° C. EI-MS: 468 (100%), 436 (7%), 391 (7%), 358 (8%), 234 (11%). The structure is confirmed by single crystal X-ray diffraction analysis: (space group: P-1; cell length: a 5.746(2); b 10.337(2); c 10.623(2); cell angles: α 116.620(11) β 104.914(13) γ 92.354(14)). FIG. 5 shows representations of the product calculated according to the above x-ray data (views other than along crystallographic axes).

reactant | 7,14-diphenyl-7,14-dihydro-5,12-dithia-pentacene | 8.0 g | C1(=CC=CC=C1)C1C=2C=C3SC=4C=CC=CC4C(C3=CC2SC2=CC=CC=C12)C1=CC=CC=C1 | C32H22S2
reactant | chloranil | 3.1 grams | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
solvent | ortho-dichlorobenzene | 70 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 7,14-Diphenyl-5,12-dithia-pentacene | C1(=CC=CC=C1)C1=C2C=C3SC=4C=CC=CC4C(=C3C=C2SC2=CC=CC=C12)C1=CC=CC=C1 | C32H20S2
